US08980905B2
N-(3,5-Dichloro-4-pyridyl)-7-Difluoromethoxy-2′,3′,5′,6′-tetrahydro-spiro[1,3-benzodioxole-2,4′-(4H)-thiopyran]-4-carbamide
4-Nitrophenyl 7-difluoromethoxy-2′,3′,5′,6′-tetrahydro-spiro[1,3-benzodioxole-2,4′-(4H)-thiopyran]-4-carboxylate (250 mg) and 3,5-Dichloro-4-aminopyridine (129 mg) was dissolved under argon in dry THF, 5 mL. Sodium hydride (50% suspension in oil), 40 mg, was added, and the mixture left stirring overnight. Aqueous work up with EtOAc and chromatography in a gradient from 0 to 60% EtOAc in pentane afforded the title compound. 1H NMR (300 MHz, CDCl3) δ 8.64 (s, 1H), 8.57 (s, 2H), 7.63 (d, J=9.0 Hz, 1H), 6.86 (d, J=9.1 Hz, 1H), 6.73 (t, J=72 Hz, 1H), 3.03-2.81 (m, 4H), 2.49-2.29 (m, 4H).

reactant | 4-Nitrophenyl 7-difluoromethoxy-2′,3′,5′,6′-tetrahydro-spiro[1,3-benzodioxole-2,4′-(4H)-thiopyran]-4-carboxylate | 250 mg | FC(OC1=CC=C(C2=C1OC1(CCSCC1)O2)C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])F | C19H15F2NO7S
reactant | 3,5-Dichloro-4-aminopyridine | 129 mg | ClC=1C=NC=C(C1N)Cl | C5H4Cl2N2
reactant | Sodium hydride | [H-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | N-(3,5-Dichloro-4-pyridyl)-7-Difluoromethoxy-2′,3′,5′,6′-tetrahydro-spiro[1,3-benzodioxole-2,4′-(4H)-thiopyran]-4-carbamide | ClC=1C=NC=C(C1NC(=O)C1=CC=C(C=2OC3(CCSCC3)OC21)OC(F)F)Cl | C18H14Cl2F2N2O4S
